US07888309B2
1-cyclooct-3-enylpropan-1-one (84.0 g, 0.5 mol) was slowly added to a solution of sodium borohydride (11.9 g, 0.3 mol) in ethanol (330 ml) at 0° C. (ice bath), and stirring was continued at room temperature for 4 h. The reaction mixture was poured into ice-cold 2N HCl (500 ml) and extracted with MTBE (2×200 ml). After washing with brine (3×200 ml), drying (MgSO4) and evaporation of solvents, the yellowish oily residue (86.6 g) was distilled over a 20 cm Widmer column (66-80° C./0.7-0.8 mbar) to give 69.2 g of 1-cyclooct-3-enylpropan-1-ol (colourless oil, 68% yield). It consisted of >90% of a 1:1 mixture of two diastereomeric racemates of 1-cyclooct-3-enylpropan-1-ol. An analytical sample was purified by flash chromatography (hexane/MTBE 3:1).

reactant | 1-cyclooct-3-enylpropan-1-one | 0.5 mol, 84.0 g | C1(CC=CCCCC1)C(CC)=O | C11H18O
reactant | sodium borohydride | 0.3 mol, 11.9 g | [BH4-].[Na+]
solvent | ethanol | 330 ml | C(C)O | C2H6O
product | 1-cyclooct-3-enylpropan-1-ol | 69.2 g, 68% yield | C1(CC=CCCCC1)C(CC)O | C11H20O
